US06291455B1
Diethyl azodicarboxylate (209 mg, 1.2 mmol) was added dropwise to a suspension of 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (146 mg, 0.4 mmol), (prepared as described for the starting material in Example 24), triphenylphosphine (314 mg, 1.2 mmol) and 4-(2-hydroxyethyl)morpholine (79 mg, 0.6 mmol) in methylene chloride (5 ml). The mixture was stirred for 1 hour at ambient temperature and purified by column flash chromatography eluting with methylene chloride/methanol (95/5 followed by 90/10) to give a white solid. The solid was dissolved in methylene chloride/methanol and 2M ethereal hydrogen chloride (0.5 ml) was added. The mixture was concentrated by evaporation and the resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-morpholinoethoxy)quinazoline hydrochloride (155 mg, 70%).

reactant | Diethyl azodicarboxylate | 1.2 mmol, 209 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.4 mmol, 146 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | triphenylphosphine | 1.2 mmol, 314 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)morpholine | 0.6 mmol, 79 mg | OCCN1CCOCC1 | C6H13NO2
reactant | hydrogen chloride | 2M, 0.5 ml | Cl | ClH
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-morpholinoethoxy)quinazoline hydrochloride | 155 mg, 70% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2CCOCC2)C=C1)F | InChI=1S/C21H22BrFN4O3.ClH/c1-28-19-11-15-18(12-20(19)30-9-6-27-4-7-29-8-5-27)24-13-25-21(15)26-17-3-2-14(22)10-16(17)23;/h2-3,10-13H,4-9H2,1H3,(H,24,25,26);1H
